US05155116
Stage C: 5-Methyl-3H-Oxazolo[4,5-b]Pyridin-2-One
1.24 g (10 mmol) of 2-amino-3-hydroxy-6-methylpyridine are introduced into a three-necked round-bottomed flask. The contents are placed under argon. 20 ml of anhydrous tetrahydrofuran and then 2.43 g (15 mmol) of 1,1-carbonyldiimidazole are added. The mixture is heated to reflux for 6 hours. The reaction medium is evaporated. The crystals obtained are washed with water, filtered off and redissolved in hot methanol. The solution is filtered and re-evaporated.

reactant | 2-amino-3-hydroxy-6-methylpyridine | 10 mmol, 1.24 g | NC1=NC(=CC=C1O)C | C6H8N2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-Methyl-3H-Oxazolo[4,5-b]Pyridin-2-One | CC1=CC=C2C(=N1)NC(O2)=O | C7H6N2O2
